### PR TITLE
feat: add support for `Fin` to omega

### PR DESCRIPTION
**Pull request by dupuisf**
With this PR, omega can handle equalities and inequalities about variables in `Fin n`. For `i : Fin n` it will add both `(i : Int) + 1 ≤ n` and `0 ≤ i` to the facts that are processed.

### CODE REVIEW

File: Std/Tactic/Omega/OmegaM.lean [hunk 1]
```diff
@@ -120,6 +120,8 @@ def analyzeAtom (e : Expr) : OmegaM (HashSet Expr) := do
       | _, true, (``Int.natAbs, #[x]) =>
         -- `(a.natAbs : Int)` gives a dichotomy
         r := r.insert (mkApp (.const ``Int.natAbs_dichotomy []) x)
+      | _, _, (``Fin.val, #[n, a]) =>
+        r := r.insert (mkApp2 (.const ``Fin.ofNat_val_add_one_le []) n a)
```
Comment (dupuisf) [inline Std/Tactic/Omega/OmegaM.lean:124]: @semorrison Can you check if this extra fact gets properly processed before getting added to the context? It seems to work but I'm not familiar enough with the code to be sure.

**Comment by dupuisf** [comment]
awaiting-review

File: Std/Tactic/Omega/Frontend.lean [hunk 2]
```diff
@@ -319,6 +319,16 @@ partial def addFact (p : MetaProblem) (h : Expr) : OmegaM (MetaProblem × Nat) :
...
+    | (``Eq, #[.app (.const ``Fin []) n, x, y]) =>
+      p.addFact (mkApp4 (.const ``Fin.val_congr []) n x y h)
+    | (``LE.le, #[.app (.const ``Fin []) n, _, x, y]) =>
+      p.addFact (mkApp4 (.const ``Fin.val_le_of_le []) n x y h)
+    | (``LT.lt, #[.app (.const ``Fin []) n, _, x, y]) =>
+      p.addFact (mkApp4 (.const ``Fin.val_add_one_le_of_lt []) n x y h)
+    | (``GE.ge, #[.app (.const ``Fin []) n, _, x, y]) =>
+      p.addFact (mkApp4 (.const ``Fin.val_le_of_ge []) n x y h)
+    | (``GT.gt, #[.app (.const ``Fin []) n, _, x, y]) =>
+      p.addFact (mkApp4 (.const ``Fin.val_add_one_le_of_gt []) n x y h)
```
Comment (semorrison) [inline Std/Tactic/Omega/Frontend.lean:331]: Please remove these, a change in another open `omega` PR will make them unnecessary.

**Review by semorrison — DISMISSED** [review]
Thinking about this some more, I'm unconvinced we're ready to add support for `Fin`.

The current PR doesn't support having goals in `Fin`, e.g. even 
```
example (i j : Fin n) (w : i < j) : i < j := by omega
```

would fail. That itself is easy to fix; I have it locally.

However if a user sees that working I think they would expect also to be able to use arithmetic operations in `Fin`, e.g.
```
example (i j : Fin n) (w : i.succ < j.succ) : i < j := by omega
example (i j : Fin n) (w : i + i < j) : i < j := by omega
```
However it would be a fair bit more work to support this. (e.g. addition in `Fin` is saturating, so involves a case split).

I'd prefer to not scope keep until we can provide a good experience with `Fin`!

Can you show me where you wanted to use `omega` that prompted this PR?

File: Std/Tactic/Omega/Frontend.lean (hunk 2 above)
Comment (semorrison) [reply Std/Tactic/Omega/Frontend.lean:331]: Sorry, I was mistaken, please ignore.

**Comment by dupuisf** [comment]
I considered also making it work for arithmetic operations on `Fin`, but as you say it would be a fair bit of work, and I don't get the sense that it's used all that much. (Also, addition in `Fin` is not saturating, `#eval (2 : Fin 3) + (1 : Fin 3)` gives me 0.) The fact that it doesn't work for literals at the moment is a bigger issue I think.

I'm currently working on a project that involves vectors of type `Fin k → R` and goals where omega doesn't work directly show up fairly often; even a quick fix that doesn't solve everything would be great.

Regarding the "proper" way to handle this eventually, I think it would be worth thinking about a way to make it extensible to be able to support types that are not in Std, like e.g. `ZMod`.

**Comment by semorrison** [comment]
I think the right strategy might just be some preprocessing tactics that are not part of `omega`, e.g. `unfold_fin_arith` which transforms the context by replacing all facts / goals about `Fin` with the corresponding statements in `Nat`.

**Comment by semorrison** [comment]
I pushed some changes, but I'm not happy yet. :-)

**Comment by dupuisf** [comment]
Fair enough. I've been experimenting some more with the aesop approach for preprocessing, and that seems to work well enough. In any case, feel free to either adopt this PR or close it entirely.

**Comment by semorrison** [comment]
@dupuisf, I've moved this to Lean: https://github.com/leanprover/lean4/pull/3427

It seems to work quite well now.

**Comment by dupuisf** [comment]
> @dupuisf, I've moved this to Lean: [leanprover/lean4#3427](https://github.com/leanprover/lean4/pull/3427)
> 
> It seems to work quite well now.

I just noticed this with the announcement today, somehow I had missed this message -- very nice! :-)
